US08357679B2
B: 1,1,1,3,3,3-Hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)propan-2-ol
To a solution of tert-butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carboxylate (16.09 mmol, 7.12 g) in dichloromethane (30 mL) was added trifluoroacetic acid (5 mL) and the reaction stirred at room temperature for 2 hours. The reaction mixture was concentrated under vacuum and purified by SCX chromatography to afford the title compound (3.5 g). MS (ESI) m/z 343.1 [M+H]+

reactant | tert-butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carboxylate | 16.09 mmol, 7.12 g | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C19H24F6N2O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1,1,1,3,3,3-Hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)propan-2-ol | 3.5 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCNCC1)(F)F | C14H16F6N2O
